US09384906B2
2.0 g (13.51 mmol) of 2-hydroxyethylmethyl oxalate and 1.7 g (16.8 mmol) of triethylamine were dissolved in 50 mL of ethyl acetate, and 3.1 g (14.5 mmol) of diethyl (2-chloro-2-oxoethyl)phosphonate was dropwise added thereto at 15° C. or lower, taking 15 minutes. This was stirred at room temperature for 1 hour, and the disappearance of the starting materials was confirmed through gas chromatography. The reaction liquid was washed with water, the organic layer was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (ethyl acetate for elution) to give 1.8 g (yield 42%) of the intended 2-(2-(diethoxyphosphoryl)acetoxyl)ethyl methyl oxalate.

reactant | 2-hydroxyethylmethyl oxalate | 13.51 mmol, 2.0 g | C(C(=O)[O-])(=O)OCCCO
reactant | triethylamine | 16.8 mmol, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | diethyl (2-chloro-2-oxoethyl)phosphonate | 14.5 mmol, 3.1 g | ClC(CP(OCC)(OCC)=O)=O | C6H12ClO4P
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-(diethoxyphosphoryl)acetoxyl)ethyl methyl oxalate | 1.8 g, yield 42% | C(C(=O)OC)(=O)OCCOC(=O)CP(=O)(OCC)OCC | C11H19O9P
